US04159984
To a solution of 756 mg of benzyl α-(3ξ-carbomethoxy-2-phenylmethanesulfonyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]-heptan-6-yl)-α-isopropylideneacetate dissolved in a mixture of 9 ml of acetone and 2.7 ml of water is added 1.85 ml of 1.012 N aqueous solution of sodium hydroxide under ice-cooling. After 15 minutes, the reaction mixture is poured into ice water, mixed with ethyl acetate, adjusted to pH 2 with 2 N-hydrochloric acid under ice-cooling and extracted with ethyl acetate. The extract is washed with water, dried on sodium sulfate, and evaporated under reduced pressure to yield 705 mg of benzyl α-(3ξ-carboxy-2-phenylmethanesulfonyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate.

reactant | benzyl α-(3ξ-carbomethoxy-2-phenylmethanesulfonyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]-heptan-6-yl)-α-isopropylideneacetate | 756 mg | C(=O)(OC)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)S(=O)(=O)CC1=CC=CC=C1 | C25H26N2O8S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 9 ml | CC(=O)C | C3H6O
solvent | water | 2.7 ml | O | H2O
product | benzyl α-(3ξ-carboxy-2-phenylmethanesulfonyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 705 mg | C(=O)(O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)S(=O)(=O)CC1=CC=CC=C1 | C24H24N2O8S
